US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-(2,2-dibromovinyl)piperidine
3.0 g of 1-[(2-methoxy-3-piridyl)methyl]-4-piperidine acetaldehyde, 5.4 ml of triethylamine, 20.1 g of triphenylphosphine and 12.9 g of carbon tetrabromide were dissolved in 77 ml of dichloroethane at 0° C., and the mixture was stirred for one hour. Dichloromethane was added to the reaction solution, the mixture was washed with an aqueous saturated sodium bicarbonate, and then it was dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by NH form silica gel column chromatography (hexane:ethyl acetate=20:1), to give 2.9 g of the title compound as a yellow oil.

reactant | 1-[(2-methoxy-3-piridyl)methyl]-4-piperidine acetaldehyde | 3.0 g | COC1=NC=CC=C1CN1CCC(CC1)CC=O | C14H20N2O2
reactant | triethylamine | 5.4 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 20.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 12.9 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloroethane | 77 ml | ClC(C)Cl | C2H4Cl2
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-(2,2-dibromovinyl)piperidine | 2.9 g | COC1=NC=CC=C1CN1CCC(CC1)C=C(Br)Br | C14H18Br2N2O
